* NGSPICE file created from Output_stage_layout.ext - technology: gf180mcuD

.subckt nfet_03v3_N8FQLR a_n52_n200# a_n372_n200# a_n436_n292# a_n516_n163# a_n655_n527#
X0 a_n372_n200# a_n436_n292# a_n516_n163# a_n655_n527# nfet_03v3 ad=0.52p pd=2.52u as=0.85595p ps=4.88u w=2u l=0.28u M=4
X1 a_n516_n163# a_n516_n163# a_n52_n200# a_n655_n527# nfet_03v3 ad=0.52p pd=2.52u as=0.52p ps=2.52u w=2u l=0.28u M=2
.ends

.subckt Output_stage_layout I_bias V_in V_out_biasing VDD
Xnfet_03v3_N8FQLR_0 V_out_biasing VDD V_in I_bias a_n158_n420# nfet_03v3_N8FQLR
.ends

